US07745477B2
a) Preparation of 4-chloro-3-ethyl-benzaldehyde
To a solution of 4.319 g of 4-bromo-1-chloro-2-ethyl-benzene (20 mmol) in 50 ml diethylether, cooled to 0° C., were added dropwise 12.3 ml of 1.6M n-BuLi in hexane. After 30 min. stirring at 0° C. and 2 h at RT, a solution of 2.43 ml DMF (31 mmol) in 10 ml diethylether was added dropwise (temperature raised from 20 to 28° C.). After 1 h additional stirring at RT, the reaction mixture was acidified with 2N HCl, diluted with 150 ml water and extracted with diethylether. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by flash column chromatography (heptane/AcOEt: 95/5) to yield 2.1 g of a colorless oil. MS (ISP) 168.1 (M+H)+.

reactant | 4-bromo-1-chloro-2-ethyl-benzene | 20 mmol, 4.319 g | BrC1=CC(=C(C=C1)Cl)CC | C8H8BrCl
reactant | n-BuLi | 1.6M, 12.3 ml | [Li]CCCC
reactant | DMF | 31 mmol, 2.43 ml | CN(C)C=O | C3H7NO
reactant | HCl | 2N | Cl | ClH
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
solvent | water | 150 ml | O | H2O
product | 4-chloro-3-ethyl-benzaldehyde | 2.1 g | ClC1=C(C=C(C=O)C=C1)CC | C9H9ClO
